US04120856
A solution of 12.1 g (0.04 mol) of 3-hydroxy-1,3-dihydro-1-methyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one in 25 ml of anhydrous methylene chloride was added dropwise over a period of 15 min. to a stirred solution of 12.6 ml (0.1 mol) of diethylaminosulfur trifluoride in 300 ml of anhydrous methylene chloride cooled to -70°. The reaction mixture was allowed to warm slowly over a period of 45 min. to 5° and then poured into 500 ml of ice and water. The lower organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure to give 10.9 g (90% yield) of crude product as a light yellow solid residue. Recrystallization from heptane gave 8.48 g (70% yield) of 3-fluoro-1,3-dihydro-1-methyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one as colorless crystals: mp 138°-140°; 19F nmr (CCl3D) δ -161.7 ppm (d, J = 57 Hz); 1H nmr (CCl3D) δ 3.43 ppm (s, 3H), 5.54 ppm (d, J = 57 Hz, 1H), 7.5 ppm (m, 8H).

reactant | 3-hydroxy-1,3-dihydro-1-methyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.04 mol, 12.1 g | OC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)C)=O | C16H13ClN2O2
reactant | diethylaminosulfur trifluoride | 0.1 mol, 12.6 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-1,3-dihydro-1-methyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 8.48 g, 70% yield | FC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)C)=O | C16H12ClFN2O
